US08232409B2
B. N-(5-Chloro-2-methyl-3-nitro-2′-trifluoromethyl-biphenyl-4-yl)-acetamide
5-Chloro-2-methyl-2′-trifluoromethyl-biphenyl-4-ylamine (384 mg, 1.34 mmol, as prepared in the previous step) was placed in a 50 mL round-bottom flask equipped with a magnetic stir bar. Acetic anhydride (1.5 mL) was added. The mixture was stirred at rt for 1 h and then cooled to 0° C. To a 4 mL vial cooled at 0° C. was added AcOH (0.27 mL), acetic anhydride (0.31 mL), and nitric acid (0.45 mL). The nitrating mixture was added dropwise via pipette to the above-prepared solution, maintaining the temperature below 10° C. Upon completion of the addition, the mixture was stirred at 0° C. for 1 hour and poured onto ice. The resulting precipitate was isolated by filtration, washed with water, and dissolved in EtOAc. The solution was dried over MgSO4 and filtered, and the solvent was removed under reduced pressure. The residue was purified by column chromatography using a 40-g SiO2 pre-packed column eluting with EtOAc/hexanes, 0:1 to 3:7, v/v over 30 min, yielding 301 mg (60%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ: 7.80 (d, J=7.8 Hz, 1H), 7.54-7.68 (m, 2H), 7.50 (s, 1H), 7.43 (s, 1H), 7.25 (d, J=7.6 Hz, 1H), 2.21 (s, 3H), 1.98 (s, 3H).

reactant | 5-Chloro-2-methyl-2′-trifluoromethyl-biphenyl-4-ylamine | ClC=1C(=CC(=C(C1)C1=C(C=CC=C1)C(F)(F)F)C)N | C14H11ClF3N
reactant | Acetic anhydride | 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.31 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 0.45 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 0.27 mL | CC(=O)O | C2H4O2
product | N-(5-Chloro-2-methyl-3-nitro-2′-trifluoromethyl-biphenyl-4-yl)-acetamide | 301 mg, 60% | ClC=1C(=C(C(=C(C1)C1=C(C=CC=C1)C(F)(F)F)C)[N+](=O)[O-])NC(C)=O | C16H12ClF3N2O3
